US07273952B2
When producing [5-(4-methoxybenzyloxy)-2-(3-methoxyphenyl)cyclohexylmethyl]-dimethylamine, the cyclohexene derivative [5-(4-methoxybenzyloxy)-2-(3-methoxyphenyl)cyclohex-2-enylmethyl]dimethylamine was isolated as a secondary product, as the 3-dimethylaminomethyl-4-(3-methoxyphenyl)cyclohexanol hydrochloride used was contaminated by the preliminary stage 5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol hydrochloride which was catalytically hydrogenated by palladium to produce 3-dimethylaminomethyl-4-(3-methoxyphenyl)cyclohexanol.

reactant | 5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol hydrochloride | Cl.CN(C)CC1C(=CCC(C1)O)C1=CC(=CC=C1)OC
catalyst | palladium | [Pd] | Pd
product | 3-dimethylaminomethyl-4-(3-methoxyphenyl)cyclohexanol | CN(C)CC1CC(CCC1C1=CC(=CC=C1)OC)O | C16H25NO2
